US04690942
1-[4-(2,4-dichlorophenoxy)phenyl]-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanol
With stirring, 0.6 g of sodium borohydride is added at 5°-10° C. to a suspension of 12.1 g of 1-[4-(2,4-dichlorophenoxy)phenyl]-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanone in 100 ml of methanol and 2 ml of water and the resultant mixture is stirred further first for 1 hour at 5°-10° C. and then for 2 hours at room temperature, whereupon a clear solution gradually forms. This solution is then poured into ice-water and extracted twice with dichloromethane. The organic phase is separated, washed twice with water, dried over sodium sulfate, filtered and concentrated. The residue is purified by chromatography through a column of silica gel eluted with diethyl ether, affording the following three fractions: The first fraction is concentrated by evaporation and the residue is recrystallised from petroleum ether, affording beige crystals with a melting point of 138°-139° C. Analytic and spectroscopic data show the presence of the pure diastereoisomer A. The second fraction is also concentrated by evaporation and the residue is recrystallised from diethyl ether, affording beige crystals with a melting point of 115°-116° C. Spectroscopic data shows that a mixture of both diastereoisomers A and B (approx. 1:1) is obtained. Similar working up of the third fraction affords the third pure diastereoisomer B with a melting point of 107°-108° C.

reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | 1-[4-(2,4-dichlorophenoxy)phenyl]-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanone | 12.1 g | ClC1=C(OC2=CC=C(C=C2)C(C(N2N=CN=C2)F)=O)C=CC(=C1)Cl | C16H10Cl2FN3O2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 1-[4-(2,4-dichlorophenoxy)phenyl]-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanol | ClC1=C(OC2=CC=C(C=C2)C(C(N2N=CN=C2)F)O)C=CC(=C1)Cl | C16H12Cl2FN3O2
